US06541505B1
N-[2-(3-cyano-1H-indol-5-yl)-ethyl]-4-[2-[2-(2-oxo-imidazolidin-1-yl)-ethylamino]-pyrimidin-4-yl]-benzamide.
Using 2-(2-oxo-imidazolidin-1-yl)-ethylamine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. 1H NMR (DMSO) δ 2.96 (bt, 2H); 3.24 (m, 4H); 3.47 (m, 6H); 6.26 (s, 1H); 7.18 (m, 2H); 7.27 (bt, 1H, J=5 Hz); 7.48 (m, 2H); 7.91 (d, 2H, J=9 Hz); 8.19 (m, 3H); 8.36 (bd, 1H); 8.67 (t, 1H, J=5 Hz); 12.10 (bs, 1H). MS (ion spray) m/z 495 (M+H)+.

reactant | 2-(2-oxo-imidazolidin-1-yl)-ethylamine | O=C1N(CCN1)CCN | C5H11N3O
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-cyano-1H-indol-5-yl)-ethyl]-4-[2-[2-(2-oxo-imidazolidin-1-yl)-ethylamino]-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)NCCN1C(NCC1)=O)=O | C27H26N8O2
